US07601716B2
1-(2-Chloropyridin-3-ylmethyl)-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (1.189 g) was reacted with 3-(bromomethyl)-2-chloropyridine as in General Procedure 1 to give the title compound as an orange solid (58% yield). m.p.=249° C., LCMS: m/z=401.18 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 4.29 (2H, s), 5.16 (2H, s), 7.04 (1H, s), 7.26 (1H, m), 7.36 (1H, d, J=7.6 Hz), 7.91 (1H, s), 8.34 (1H, d, J=4.3 Hz).

reactant | 7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 1.189 g | IC1=CC2=C(NCC(N2)=O)N=C1 | C7H6IN3O
reactant | 3-(bromomethyl)-2-chloropyridine | BrCC=1C(=NC=CC1)Cl | C6H5BrClN
product | 1-(2-Chloropyridin-3-ylmethyl)-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 58% yield | ClC1=NC=CC=C1CN1C2=C(NCC1=O)N=CC(=C2)I | C13H10ClIN4O
